US08648066B2
A mixture of 1,1-dimethylethyl 7-(6-amino-5-nitropyridin-3-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (0.58 g, 1.5 mmol), palladium (10% on charcoal, 0.50 g) and methanol (30 mL) was hydrogenated in a Parr apparatus at 45 psi for 18 hours. The mixture was filtered then concentrated and dried to give 1,1-dimethylethyl 7-(5,6-diaminopyridin-3-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (0.51 g, 96% yield), MS (EI) for C19H24N4O3: 357 (MH+).

reactant | 1,1-dimethylethyl 7-(6-amino-5-nitropyridin-3-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 1.5 mmol, 0.58 g | NC1=C(C=C(C=N1)C=1C=CC2=C(CN(CCO2)C(=O)OC(C)(C)C)C1)[N+](=O)[O-] | C19H22N4O5
catalyst | palladium | 0.50 g | [Pd] | Pd
solvent | methanol | 30 mL | CO | CH4O
product | 1,1-dimethylethyl 7-(5,6-diaminopyridin-3-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.51 g, 96% yield | NC=1C=C(C=NC1N)C=1C=CC2=C(CN(CCO2)C(=O)OC(C)(C)C)C1 | C19H24N4O3
